2130-04-20 04:14:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59W with DM, CAD - admitted with a left infected foot ulcer. Debrided
   in clinic today and planned to go to OR tomorrow. BP this evening BP
   fell to 70's/40's - asymptomatic. Given IVF and BP increased to 80's.
   She was given vicodan and ativan and BP fell again.  Transferred for
   closer monitoring.
   24 Hour Events:
                               History obtained from Patient, housestaff
   Allergies:
   Sulfamethoxazole/Trimethoprim (Oral)
   Unknown;
   Wool Alcohols
   itchiness;
   Latex
   Rash; Wheezing;
   Trimethoprim
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: infected left foot ulcer
   Neurologic: Numbness / tingling
   Flowsheet Data as of  [**2130-4-20**] 04:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 84 (84 - 88) bpm
   BP: 107/49(57) {100/49(57) - 107/58(68)} mmHg
   RR: 19 (18 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Obese
   No distress
   HEENT crowded OP
   Neck supple
   Hrt RRR
   Lung decreased BS
s at bases
   Abd benign
   Extremities: left foot dressed
   Neurologic:alert and oriented
   Labs / Radiology
   10.6 g/dL
   246 K/uL
   193
   2
   31.8 %
   17.6 K/uL
        [image002.jpg]
                             [**2130-4-20**]  03:03 AM
   WBC
   17.6
   Hct
   31.8
   Plt
   246
   Other labs: Differential-Neuts:84.1 %, Lymph:10.7 %, Mono:3.1 %,
   Eos:1.7 %
   Imaging: CXR elevated right HD, otherwise unremarkable
   Microbiology: [**Last Name (un) 5098**] ulcer gram stain 1+ GPC, 1+ GNR
   ECG: NSR 83, no changes
   Assessment and Plan
   DM infected foot ulcer - continue antibiotics recommended by podiatry,
   to OR tomorrow
   hypotension - improved with IVF, presumably related to foot infection -
   no other obvious sources, follow cultures
   ARF - creatinine 2 up from baseline 1.1 - will continue to resuscitate,
   follow
   DM - NPO, sliding scale for now along with reduced dose lantus
   ICU Care
   Nutrition: NPO
   Glycemic Control:  sliding scale
   Lines:
   22 Gauge - [**2130-4-20**] 02:41 AM
   20 Gauge - [**2130-4-20**] 02:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : likely OR in AM
   Total time spent: 35 min

2130-04-21 07:49:00 Physician Resident Progress Note
Chief Complaint: hypotension, Left foot infection
   24 Hour Events:
 EKG - At [**2130-4-20**] 09:36 AM
 OR SENT - At [**2130-4-20**] 10:30 AM
   recieing fluid bolus when anesthesia arrived- 250cc inc w/ BP 95/60-
   anesthesia to finish fluid bolus,  RN prepairing to insert foley
   catheter- team aware and cleared stable to leave for OR- site marked,
   pt reviewed POC, anesthesia to place foley
 OR RECEIVED - At [**2130-4-20**] 12:10 PM
   left wound debreedment on OR- sedated w/ Propofol and Versed, BP
   stable- procedure uneventful
 BLOOD CULTURED - At [**2130-4-20**] 04:15 PM
   only able to obtain BC x1- awaiting phlebotomy for additional draw
 URINE CULTURE - At [**2130-4-20**] 06:41 PM
 FEVER - 102.8
F - [**2130-4-20**] 06:30 PM
   -mental status not at baseline. A+Ox1.
   -UA, UCx, CXR, BCxs sent
   CXR: concerning for pulmonary edema
   Allergies:
   Sulfamethoxazole/Trimethoprim (Oral)
   Unknown;
   Wool Alcohols
   itchiness;
   Latex
   Rash; Wheezing;
   Trimethoprim
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-20**] 08:00 AM
   Ciprofloxacin - [**2130-4-20**] 10:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-4-21**] 12:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-4-20**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-20**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-21**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 39.2
C (102.6
   HR: 88 (83 - 112) bpm
   BP: 126/66(80) {59/39(49) - 156/102(109)} mmHg
   RR: 20 (15 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,593 mL
                                                                  1,071 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  4,723 mL
                                                                  1,071 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,970 mL
                                                                  1,010 mL
   Urine:
                                                                  3,970 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,623 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.40/38/71/23/0
   Physical Examination
   Gen: NAD. Alert, interactable, oriented x2.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. OP clear, no exudates or
   ulceration.
   Neck: Supple, JVP not elevated.obese
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: Resp were unlabored. Diffuse crackles bilaterally. No wheezes
   Abd: Obese, Soft, NTND. No HSM or tenderness.
   Ext: 1+ edema bilaterally. 2+pulses. L.foot in gauze wrap.
   Labs / Radiology
   274 K/uL
   11.1 g/dL
   99 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   29 mg/dL
   107 mEq/L
   139 mEq/L
   33.5 %
   11.0 K/uL
        [image002.jpg]
                             [**2130-4-20**]  03:03 AM
                             [**2130-4-20**]  06:42 PM
                             [**2130-4-21**]  02:34 AM
                             [**2130-4-21**]  03:45 AM
   WBC
   17.6
   11.0
   11.0
   Hct
   31.8
   33.5
   33.5
   Plt
   [**Telephone/Fax (3) 8882**]
   Cr
   1.9
   1.0
   TropT
   0.01
   TCO2
   24
   Glucose
   171
   99
   Other labs: PT / PTT / INR:13.8/26.6/1.2, CK / CKMB /
   Troponin-T:1137/31/0.01, ALT / AST:26/47, Alk Phos / T Bili:115/0.5,
   Differential-Neuts:84.1 %, Lymph:10.7 %, Mono:3.1 %, Eos:1.7 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:326 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR
   Lung volumes are low, resulting in interstitial crowding, but there is
   increased opacity at the right lung apex which could reflect a
   developing
   consolidation. Retrocardiac opacity likely due to atelectasis.
   Microbiology: [**4-19**] Swab of foot
   [**2130-4-19**] 3:34 pm SWAB      Source: left foot.
      GRAM STAIN (Final [**2130-4-19**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         SMEAR REVIEWED; RESULTS CONFIRMED.
   [**4-20**] Foot culture
    TISSUE      MEDIAL CUNEIFORM, LEFT FOOT.
      GRAM STAIN (Final [**2130-4-20**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       SINGLY AND IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   Pt is a 59 y.o female with PMH HTN, HL, CAD, DM, hypothyroidism who
   presents with L.foot infection and hypotension.
   .
   #Hypotension-concerning for septic shock given known diabetic foot
   infection, and hypotension.  Patient taken to OR yesterday, and
   cultures sent from foot by podiatry.  Other etiologies include PNA,
   UTI, osteomyelitis. Patient has been ruled out for MI. She may have
   aspirated after being taken to the OR. CXR shows RUL opacity,
   concerning for pneumonia.
   -IVF for MAP >65
   -continue current abx vanco/cipro/flagyl for foot infection, until
   cultures are negative. Repeat UA negative
   -follow up blood cultures, UCx
   .
   #L.foot pain/infection-continue vancomycin, ciprofloxacin, flagyl for
   DM foot infection, covering for potential pseudomonas. Pain control
   with tramadol prn. Going back to OR today, per podiatry
   - f/u podiatry recs.
   -f/u culture data
   .
   # Altered mental status: After OR procedure yesterday patient was
   difficult to arouse, and not able to interact appropriately. A+Ox1
   only. Got minimal sedation during procedure. Patient was febrile
   yesterday, and seems to have worsening mental status with fevers.
   Clearing this morning, after getting tylenol. Neuro exam non focal.
   Check TSH, B12, folate, LFTs. This is most likely altered mental status
   in the setting of fever and infection.
   -continue to monitor.
   .
   #acute renal failure. Cr 2.0 on transfer to ICU. Cr 1.0 this AM.
   Likely secondary to hypovolemia in the setting of infection.
   -continue maintenance IV fluids, and boluses PRN MAP<60
   -redose Vanc and Zosyn
   .
   # Pulmonary edema seen on CXR: [**Month (only) 60**] be secondary to +1.6L fluid up over
   the last 24 hours. [**Month (only) 60**] have a component of cardiogenic shock vs. ARDS
   in the setting of overwhelming infection.
   -will obtain echo to eval cardiac function
   -supplemental oxygen as necessary
   .
   #cardiac-h.o CAD, HTN, HL
   -continue asa, atenolol, ace-I.
   .
   #DM-DM diet, HISS, FS QID, ACE-I
   .
   #FEN-advance diet as mental status tolerates. IV fluids to supplement
   po intake.
   .
   #PPx-PPI, hep SC, bowel reg
   .
   #access-2 PIVs
   .
   #communication-with pt and husband.
   .
   #code-full
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2130-4-20**] 02:41 AM
   20 Gauge - [**2130-4-20**] 02:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-22 08:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-4-21**] 11:30 AM
   Mild regional left ventricular systolic dysfunction, c/w CAD. No
   significant valvular disease. Mild pulmonary hypertension.  LVEF =
   45-50%
 BLOOD CULTURED - At [**2130-4-21**] 09:00 PM
 URINE CULTURE - At [**2130-4-21**] 09:33 PM
 FEVER - 102.8
F - [**2130-4-21**] 08:00 PM
   - Pt. with second debridement, podiatry removed a loculated area with
   pus and then rewrapped foot
   - Fever to 102, blood cultures sent, negative UA
   - Pt. with tachycardia and increased O2 requirement w/hypertension
   after 2nd debridement.  CXR done showing fluid overload, 20mg IV lasix
   given, BP and pulse normalized.  Net negative 1.4 liters
   Allergies:
   Sulfamethoxazole/Trimethoprim (Oral)
   Unknown;
   Wool Alcohols
   itchiness;
   Latex
   Rash; Wheezing;
   Trimethoprim
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-21**] 08:25 PM
   Ciprofloxacin - [**2130-4-21**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-4-22**] 06:19 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-4-21**] 04:00 PM
   Morphine Sulfate - [**2130-4-21**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-4-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-22**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.5
C (99.5
   HR: 85 (79 - 113) bpm
   BP: 112/51(65) {96/38(51) - 189/107(128)} mmHg
   RR: 21 (13 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,041 mL
                                                                    481 mL
   PO:
                                                                    100 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  2,541 mL
                                                                    181 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  4,005 mL
                                                                  1,020 mL
   Urine:
                                                                  4,005 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -964 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: NAD. Alert, interactable, oriented x 3, much more lucid this AM.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. OP clear, no exudates or
   ulceration.
   Neck: Supple, JVP not elevated.obese
   CV: RRR, normal S1, S2. No m/r/g.
   Chest: Resp were unlabored. Diffuse crackles bilaterally. No wheezes
   Abd: Obese, Soft, NTND. No HSM or tenderness.
   Ext: 1+ edema bilaterally. 2+pulses. L.foot in gauze wrap.
   Labs / Radiology
   309 K/uL
   10.1 g/dL
   92 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   21 mg/dL
   105 mEq/L
   136 mEq/L
   30.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2130-4-20**]  03:03 AM
                             [**2130-4-20**]  06:42 PM
                             [**2130-4-21**]  02:34 AM
                             [**2130-4-21**]  03:45 AM
                             [**2130-4-21**]  02:59 PM
                             [**2130-4-22**]  03:21 AM
   WBC
   17.6
   11.0
   11.0
   10.7
   Hct
   31.8
   33.5
   33.5
   30.7
   Plt
   [**Telephone/Fax (3) 8904**]09
   Cr
   1.9
   1.0
   0.9
   TropT
   0.01
   0.03
   0.01
   TCO2
   24
   Glucose
   171
   99
   92
   Other labs: PT / PTT / INR:14.4/27.0/1.3, CK / CKMB /
   Troponin-T:132/4/0.01, ALT / AST:22/27, Alk Phos / T Bili:108/0.4,
   Amylase / Lipase:51/10, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.1 %, Eos:1.7 %, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL,
   LDH:255 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Wound Culture [**4-20**]: GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND
   CHAINS.
   Assessment and Plan
   Pt is a 59 y.o female with PMH HTN, HL, CAD, DM, hypothyroidism who
   presents with L.foot infection and hypotension.
   .
   #Hypotension-initially concerning for septic shock given known diabetic
   foot infection, and hypotension.  Patient taken to OR yesterday, and
   cultures sent from foot by podiatry.  Other etiologies include PNA,
   UTI, osteomyelitis. Patient has been ruled out for MI.  Pt.
   subsequently HYPERtensive with tachycardia, given some diuresis given
   CXR and fluid overload on exam.  Net negative 1L, BP and HR normalized.
   -IVF for MAP >65
   -Increased vanco dosing to compensate for normalization of renal
   function, vanc level tonight
   -continue current cipro/zosyn for foot infection/double coverage for
   pseudomonas, until cultures are negative. Repeat UA negative
   -follow up blood cultures, UCx
   .
   #L.foot pain/infection- 2^nd debridement done yesterday.  continue
   vancomycin, ciprofloxacin, flagyl for DM foot infection, covering for
   potential pseudomonas. Pain control with tramadol prn.
   - f/u podiatry recs.
   -f/u culture data
   .
   # Altered mental status: Patient was febrile yesterday, once again with
   altered mental status along with some subsequent hypertension and fluid
   overload.  Seems to have worsening mental status with fevers. Clearing
   this morning, after getting tylenol. Neuro exam non focal and now
   lucid. Most likely altered mental status in the setting of fever and
   infection.
   -continue to monitor.
   .
   #acute renal failure. Cr 2.0 on transfer to ICU. Cr 0.9 this AM.
   Likely secondary to hypovolemia in the setting of infection.
   -continue maintenance IV fluids as needed, and boluses PRN MAP<60
   -redose Vanc and Zosyn
   .
   #cardiac-h.o CAD, HTN, HL, ruled out for MI
   -continue asa, atenolol, ace-I.
   .
   #DM-DM diet, HISS, FS QID, ACE-I
   .
   #FEN-advance diet as mental status tolerates. IV fluids to supplement
   po intake.
   .
   #PPx-PPI, hep SC, bowel reg
   .
   #access-2 PIVs
   .
   #communication-with pt and husband.
   .
   #code-full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-21**] 09:01 PM
   22 Gauge - [**2130-4-21**] 09:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-22 09:58:00 Physician Attending Progress Note
Chief Complaint: sepsis, foot ulcer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   To OR for loculated foot infection
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2130-4-21**] 11:30 AM - LVEF 45-55% , no
   valvular ds, mild PHTN,
 OR SENT - At [**2130-4-21**] 12:25 PM
 OR RECEIVED - At [**2130-4-21**] 02:11 PM
 EKG - At [**2130-4-21**] 04:50 PM
 BLOOD CULTURED - At [**2130-4-21**] 09:00 PM
 URINE CULTURE - At [**2130-4-21**] 09:33 PM
 FEVER - 102.8
F - [**2130-4-21**] 08:00 PM
   Tachy and HTn last PM- volume overload- Rx Lasix 20 mg IV - put out 1
   liter and improved
   Allergies:
   Sulfamethoxazole/Trimethoprim (Oral)
   Unknown;
   Wool Alcohols
   itchiness;
   Latex
   Rash; Wheezing;
   Trimethoprim
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-4-21**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2130-4-22**] 06:19 AM
   Vancomycin - [**2130-4-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-4-21**] 04:00 PM
   Morphine Sulfate - [**2130-4-21**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-4-21**] 08:00 PM
   Other medications:
   Nicotine patch
   SC hep colace Nuerontine Lipitor effexor ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2130-4-22**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.9
C (100.2
   HR: 83 (79 - 113) bpm
   BP: 117/55(68) {96/38(51) - 189/107(128)} mmHg
   RR: 22 (13 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,041 mL
                                                                    949 mL
   PO:
                                                                    100 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  2,541 mL
                                                                    449 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  4,005 mL
                                                                  1,160 mL
   Urine:
                                                                  4,005 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -964 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
    Gen alert NAD
   CV RR
   Chest fair airmovement dimished at bases
   Abd: obese soft NT
   Ext left foot wrapped CDI
   Neuro: A and O x 3
   Labs / Radiology
   10.1 g/dL
   309 K/uL
   92 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   21 mg/dL
   105 mEq/L
   136 mEq/L
   30.7 %
   10.7 K/uL
        [image002.jpg]
   Wound GPC in prs and chains
                             [**2130-4-20**]  03:03 AM
                             [**2130-4-20**]  06:42 PM
                             [**2130-4-21**]  02:34 AM
                             [**2130-4-21**]  03:45 AM
                             [**2130-4-21**]  02:59 PM
                             [**2130-4-22**]  03:21 AM
   WBC
   17.6
   11.0
   11.0
   10.7
   Hct
   31.8
   33.5
   33.5
   30.7
   Plt
   [**Telephone/Fax (3) 8904**]09
   Cr
   1.9
   1.0
   0.9
   TropT
   0.01
   0.03
   0.01
   TCO2
   24
   Glucose
   171
   99
   92
   Other labs: PT / PTT / INR:14.4/27.0/1.3, CK / CKMB /
   Troponin-T:132/4/0.01, ALT / AST:22/27, Alk Phos / T Bili:108/0.4,
   Amylase / Lipase:51/10, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.1 %, Eos:1.7 %, Lactic Acid:1.0 mmol/L, Albumin:3.2 g/dL,
   LDH:255 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan 59 yr old woman with sepsis due to ibfected
   diabetic foot
   1. Hemodynamics :  overall her BP trended up with HTN and tachy that
   was consistent with pulm edema and responded to diuresis.
   2. Sepsis from R foot osteo/ abscess.  s/p hopefully definitive
   operative intervention but Podiatry still involved.  We are continuing
   broad abx coverage
 awaiting cx results. Vanco level tonight
   3. ARF resolving
 trend watch UOP
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-21**] 09:01 PM
   22 Gauge - [**2130-4-21**] 09:02 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  Comments:
   Code status: Full code
   Disposition : call out